US08648081B2
Stir a mixture of Cyclopentane-1,2-dione (2.00 g, 20.4 mmol), methyl 2-(2-oxopropylthio)acetate (3.31 g, 20.4 mmol) and potassium carbonate (5.63 g, 40.8 mmol) in DMF (40 mL) at 80° C. for 4 hours. Filter off the mixture and remove the solvent under vacuum. Purify the residue by a flash column on silica gel eluting with PE:EtOAc (8:1 to 6:1) to afford 3-Acetyl-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester as a pale yellow solid (206 mg, 4.5%). MS (m/z): 225 (M+1).

reactant | Cyclopentane-1,2-dione | 20.4 mmol, 2.00 g | C1(C(CCC1)=O)=O | C5H6O2
reactant | methyl 2-(2-oxopropylthio)acetate | 20.4 mmol, 3.31 g | O=C(CSCC(=O)OC)C | C6H10O3S
reactant | potassium carbonate | 40.8 mmol, 5.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-Acetyl-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 206 mg, 4.5% | COC(=O)C=1SC(=C2C1CCC2)C(C)=O | C11H12O3S
